US05753671
2-Bromoethyl acetate (267 mg, 1.6 mmol) was added dropwise to a stirred solution of 4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}piperidine (500 mg, 1.6 mmol) in THF (12 ml) and the reaction stirred at room temperature overnight. THF was removed under reduced pressure and the residue partitioned between ethylacetate and saturated sodium bicarbonate solution. The organic layer was separated, dried over magnesium sulphate, filtered and solvent removed to leave a white solid. The product was purified by column chromatography on silica gel eluting with 5% methanol/DCM. Product containing fractions were combined and solvent removed to yield ethyl-(4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)piperidin-1-yl)acetate as a white solid (214 mg, 34%)

reactant | 2-Bromoethyl acetate | 1.6 mmol, 267 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | 4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}piperidine | 1.6 mmol, 500 mg | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C19H19ClN2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | ethyl-(4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene)piperidin-1-yl)acetate | 214 mg, 34% | C(C)OC(CN1CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=C(C=C2)Cl)=O | C23H25ClN2O2
